US05723412
(1) Synthesis of an intermediate, 4-bromo-2-methylthio-6-[3-(trifluoromethyl)phenoxy]pyrimidine
In THF, a phenoxide was prepared from m-(trifluoromethyl)phenol (1.30 g, 0.00794×1.0 mol) and NaH (0.32 g (ca. 60% in mineral oil), 0.00794×1.0 mol), and 4,6-dibromo-2-(methylthio)pyrimidine (Compound No. VII-22) (2.0 g, 0.00794 mol) was added thereto, and the mixture was then allowed to react for 5 hours at room temperature.

reactant | m-(trifluoromethyl)phenol | 1.0 mol, 1.30 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | NaH | 1.0 mol, 0.32 g | [H-].[Na+]
reactant | 4,6-dibromo-2-(methylthio)pyrimidine | BrC1=NC(=NC(=C1)Br)SC | C5H4Br2N2S
solvent | THF | C1CCOC1 | C4H8O
product | 4-bromo-2-methylthio-6-[3-(trifluoromethyl)phenoxy]pyrimidine | BrC1=NC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)SC | C12H8BrF3N2OS
